US06087380
1-ethyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-ethyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 85% of theory, C28H31N7O3 (513.6) Rf value: 0.21 (silica gel; dichloromethane/methanol=5:1) ##EQU55##

reactant | 1-ethyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)CC)C=C1)CCC(=O)OCC | C28H28N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-ethyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 85% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)CC)C=C1)CCC(=O)OCC | InChI=1S/C28H31N7O3.ClH/c1-3-34-23-13-10-20(28(37)35(16-14-26(36)38-4-2)24-7-5-6-15-31-24)17-22(23)33-25(34)18-32-21-11-8-19(9-12-21)27(29)30;/h5-13,15,17,32H,3-4,14,16,18H2,1-2H3,(H3,29,30);1H
